US04727186
To a solution of 28.3 g (0.1 mole) of 2-iodophenylsulfonamide in 350 ml of dimethylformamide and 100 ml of triethylamine are added 1.0 g of palladium dichloro-bis(triphenylphosphite) complex, PdCl2 [P(C6H5)3 ]2, and 0.5 g of copper(I) iodide (CuI). Gaseous propine is then introduced into this solution until the starting material is completely reacted. The reaction mixture is filtered and the residue is concentrated in vacuo and then taken up in water. The precipitate is isolated and dried. Recrystallisation from ethyl acetate/hexane yields 15.6 g (80%) of 2-propyn-1-yl)phenylsulfonamide with a melting point of 147°-149° C.

reactant | 2-iodophenylsulfonamide | 0.1 mole, 28.3 g | IC1=C(C=CC=C1)S(=O)(=O)N | C6H6INO2S
reactant | P(C6H5)3 | P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | propine | CC(C)(C)C(=O)OC=1C=CC(=CC1OC(=O)C(C)(C)C)C(CNC)O.Cl
solvent | dimethylformamide | 350 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 100 ml | C(C)N(CC)CC | C6H15N
catalyst | PdCl2 | Cl[Pd]Cl
catalyst | copper(I) iodide | 0.5 g | [Cu]I
product | phenylsulfonamide | C1(=CC=CC=C1)S(=O)(=O)N | C6H7NO2S
